US06369086B1
8-(3H-Benzotriazol-5-ylaminomethylene)-6,8-dihydro-1-thia-3,6-diaza-as-indacene-7-one (Z-isomer)
The title compound was prepared in 54% yield from 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one and 5-aminobenzotriazole according to Procedure J: 1H NMR (DMSO-d6): δ11.18 (d,1H), 10.9 (s, 1H), 9.23 (s, 1H), 8.12 (d, 1H), 7.96 (s, 1H), 7.78 (d, 1H), 7.48(s, 1H), 7.1 (d, 1H); APCI−MS m/z 333 (M−H)−.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | 5-aminobenzotriazole | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
product | 8-(3H-Benzotriazol-5-ylaminomethylene)-6,8-dihydro-1-thia-3,6-diaza-as-indacene-7-one | 54% yield | N1=NNC2=C1C=CC(=C2)NC=C2C(NC1=CC=C3N=CSC3=C21)=O | C16H10N6OS
